US07951954B2
b) [3-(2-Oxo-ethyl)-benzyl]-(3-pyridin-2-yl-propyl)-carbamic acid tert-butyl ester
A solution of [3-(2-hydroxy-ethyl)-benzyl]-(3-pyridin-2-yl-propyl)-carbamic acid tert-butyl ester (90 mg) in anhydrous dichloromethane (8 mL) under nitrogen was treated with Dess-Martin periodinane (123 mg) and the mixture stirred for 90 minutes. Ethyl acetate (8 mL) was added followed by saturated aqueous sodium thiosulphate (8 mL) and saturated aqueous sodium bicarbonate (8 mL), the resultant mixture was stirred vigorously for 10 minutes before being extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium bicarbonate, dried and the solvent removed under reduced pressure to yield the sub-titled compound (90 mg).

reactant | [3-(2-hydroxy-ethyl)-benzyl]-(3-pyridin-2-yl-propyl)-carbamic acid tert-butyl ester | 90 mg | C(C)(C)(C)OC(N(CCCC1=NC=CC=C1)CC1=CC(=CC=C1)CCO)=O | C22H30N2O3
reactant | Dess-Martin periodinane | 123 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulphate | 8 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 8 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | Ethyl acetate | 8 mL | C(C)(=O)OCC | C4H8O2
product | [3-(2-Oxo-ethyl)-benzyl]-(3-pyridin-2-yl-propyl)-carbamic acid tert-butyl ester | 90 mg | C(C)(C)(C)OC(N(CCCC1=NC=CC=C1)CC1=CC(=CC=C1)CC=O)=O | C22H28N2O3
